US08378108B2
A mixture of crude 2-(isopropoxycarbonyl)pyridin-4-ylboronic acid (700 mg, ˜1.0 mmol), dppf(Pd)Cl2 (40 mg, 5 mol %), potassium carbonate (280 mg, 2.0 mmol) and 2-(5-bromopyridin-2-yl)propan-2-ol (216 mg, 1.0 mmol) in degassed toluene (3 mL), degassed water (1 mL) and degassed isopropanol (1 mL) was heated at 85° C. for 1 hour. The aqueous layer was discarded and the solvent removed under reduced pressure. The residue was purified by flash chromatography (rf: 0.53 in 20:1 ethyl acetate:methanol) to give isopropyl 6-(2-hydroxypropan-2-yl)-3,4′-bipyridine-2′-carboxylate (140 mg, 47% yield). 301.1 (M+1).

reactant | 2-(isopropoxycarbonyl)pyridin-4-ylboronic acid | ˜1.0 mmol, 700 mg | C(C)(C)OC(=O)C1=NC=CC(=C1)B(O)O | C9H12BNO4
reactant | potassium carbonate | 2.0 mmol, 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(5-bromopyridin-2-yl)propan-2-ol | 1.0 mmol, 216 mg | BrC=1C=CC(=NC1)C(C)(C)O | C8H10BrNO
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | isopropyl 6-(2-hydroxypropan-2-yl)-3,4′-bipyridine-2′-carboxylate | 140 mg, 47% yield | OC(C)(C)C1=CC=C(C=N1)C1=CC(=NC=C1)C(=O)OC(C)C | C17H20N2O3
